US06348474B1
4-(4-Phenylbenzyl)quinoline-6-carboxylic acid
A mixture of 6-(4,5-dihydro-4,4-dimethyloxazol-2-yl)-4-(4-phenylbenzyl)-quinoline (132 mg), ethanol (1 ml) and 3N hydrochloric acid (3 ml) was refluxed under heating for 2 hr. Then 6N hydrochloric acid (3 ml) was added and the mixtured was refluxed for 4 hr. The mixture was basified with aqueous sodium hydroxide solution, and washed once with chloroform. The aqueous layer was adjusted to pH 4 with 1N hydrochloric acid. The resulting precipitate was collected by filtration and washed with water to give the objective compound (87 mg) as a white powder.

reactant | 6-(4,5-dihydro-4,4-dimethyloxazol-2-yl)-4-(4-phenylbenzyl)-quinoline | 132 mg | CC1(N=C(OC1)C=1C=C2C(=CC=NC2=CC1)CC1=CC=C(C=C1)C1=CC=CC=C1)C | C27H24N2O
reactant | hydrochloric acid | 3N, 3 ml | Cl | ClH
reactant | hydrochloric acid | 6N, 3 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 4-(4-Phenylbenzyl)quinoline-6-carboxylic acid | 87 mg | C1(=CC=CC=C1)C1=CC=C(CC2=CC=NC3=CC=C(C=C23)C(=O)O)C=C1 | C23H17NO2
